US07514470B2
A. 4-[(2-Fluoroethyl)amino]-2-(trifluoromethyl)benzonitrile
To a solution of 4-amino-2-(trifluoromethyl)benzonitrile (0.100 g, 0.54 mmol) in acetonitrile (3 mL) was added cesium carbonate (0.438 g, 1.34 mmol) and 1-bromo-2-fluoroethane (0.340 g, 2.68 mmol). The mixture was heated in a microwave at 120° C. for 15 min. Upon cooling, additional 1-bromo-2-fluoroethane (0.340 g, 2.68 mmol) was added and the reaction was heated in the microwave at 140° C. for 20 min. Upon cooling, the solids were filtered off and washed with ethyl acetate. The filtrate was concentrated in vacuo and the residue was purified by radial chromatography (10-40% ethyl acetate-hexane gradient) to give 0.100 g of a mixture (6:1) of the title compound and 4-[bis(2-fluoroethyl)amino]-2-(trifluoromethyl)benzonitrile as a white solid, which was used as such in the next reaction.

reactant | 4-amino-2-(trifluoromethyl)benzonitrile | 0.54 mmol, 0.100 g | NC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H5F3N2
reactant | cesium carbonate | 1.34 mmol, 0.438 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-bromo-2-fluoroethane | 2.68 mmol, 0.340 g | BrCCF | C2H4BrF
reactant | 1-bromo-2-fluoroethane | 2.68 mmol, 0.340 g | BrCCF | C2H4BrF
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 4-[(2-Fluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | 0.100 g | FCCNC1=CC(=C(C#N)C=C1)C(F)(F)F | C10H8F4N2
